US07153997B2
Boron trifluoride dimethyl sulfide (2.0 mL) was added at room temperature to a stirred solution of methyl-N-[3,5-dichloro-4-(3-fluoro-5-isopropyl-4-methoxyphenoxy)benzoyl]glycine (50 mg, 0.11 mmol) and dichloromethane (8 mL). The reaction mixture was stirred at room temperature for 24 hours, poured out in water and extracted with ethyl acetate. The combined organic phases were washed with water, concentrated and the resulting residue purified on column (HPLC, ACE-C8, acetonitrile/0.05% formic acid in water, gradient elution from 5/95 to 60/40) to give 5 mg (20%) of N-[3,5-dichloro-4-(3-fluoro-4-hydroxy-5-isopropylphenoxy)benzoyl]glycine. LC-MS (ES−1): m/z 414.

reactant | Boron trifluoride dimethyl sulfide | 2.0 mL | CSC.B(F)(F)F
reactant | methyl-N-[3,5-dichloro-4-(3-fluoro-5-isopropyl-4-methoxyphenoxy)benzoyl]glycine | 0.11 mmol, 50 mg | CN(CC(=O)O)C(C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C(=C1)C(C)C)OC)F)Cl)=O | C20H20Cl2FNO5
reactant | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[3,5-dichloro-4-(3-fluoro-4-hydroxy-5-isopropylphenoxy)benzoyl]glycine | 5 mg, 20% | ClC=1C=C(C(=O)NCC(=O)O)C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)F)Cl | C18H16Cl2FNO5
